US04362887
Preparation of 1,3-bis-(dodecylthio)-2-propyl 3-(dodecylthio)propionate
A solution of 23.0 grams of 1,3-bis(dodecylthio)-2-propyl acrylate, 9.05 grams of dodecanethiol and 1 milliliter of "Triton B" in 75 milliliters of ethanol was heated under reflux for 6 hours. The reaction mixture was allowed to cool and was then poured into a solution of 5 milliliters of concentrated hydrochloric acid in 300 milliliters of water. The light colored oil which precipitated crystallized on stirring and the crystalline solid was filtered off and allowed to dry. The product, 1,3-bis(dodecylthio)-2-propyl 3-(dodecylthio)propionate, weighed 31.5 grams and melted at 31°-32° C.

reactant | 1,3-bis(dodecylthio)-2-propyl acrylate | 23.0 grams | C(C=C)(=O)OC(CSCCCCCCCCCCCC)CSCCCCCCCCCCCC | C30H58O2S2
reactant | dodecanethiol | 9.05 grams | C(CCCCCCCCCCC)S | C12H26S
reactant | hydrochloric acid | 5 milliliters | Cl | ClH
solvent | ethanol | 75 milliliters | C(C)O | C2H6O
solvent | water | 300 milliliters | O | H2O
product | 1,3-bis-(dodecylthio)-2-propyl 3-(dodecylthio)propionate | C(CCCCCCCCCCC)SCCC(=O)OC(CSCCCCCCCCCCCC)CSCCCCCCCCCCCC | C42H84O2S3
